US04681940
B. 4,5-Dihydro-5-[3-[(2-quinolinyl)methoxy]phenyl]-2-(2-pyridyl)-1,3-oxazole
A solution of 4,5-dihydro-5-(3-hydroxyphenyl)-2-(2-pyridyl)-1,3-oxazole (7.3 g, 0.03 mol) and 2-(chloromethyl)quinoline (5.4 g, 0.03 mol) in dimethylformamide (200 ml) is heated to 90° for 16 hours in the presence of sodium methoxide (1.6 g, 0.03 mol). The mixture is dissolved in ethyl acetate and water. The aqueous layer is extracted twice with ethyl acetate. The combined ethyl acetate solutions are washed twice with dilute aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated to obtain an oil. This material is chromatographed on a Water Prep Pak 500 silica column with methylene chloride/methanol 99/1 (v/v) as mobile phase to obtain 2.5 g of purified material as a viscous oil.

reactant | 4,5-dihydro-5-(3-hydroxyphenyl)-2-(2-pyridyl)-1,3-oxazole | 0.03 mol, 7.3 g | OC=1C=C(C=CC1)C1CN=C(O1)C1=NC=CC=C1 | C14H12N2O2
reactant | 2-(chloromethyl)quinoline | 0.03 mol, 5.4 g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | sodium methoxide | 0.03 mol, 1.6 g | C[O-].[Na+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4,5-Dihydro-5-[3-[(2-quinolinyl)methoxy]phenyl]-2-(2-pyridyl)-1,3-oxazole | 2.5 g | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)C1CN=C(O1)C1=NC=CC=C1 | C24H19N3O2
